US09388189B2
(S)-Ethyl 4-((4-methoxybenzyl)amino)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylate
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one was treated with ethyl 4-chloro-6-((4-methoxybenzyl)amino)pyrimidine-5-carboxylate (6 mg, 0.02 mmol), N,N-diisopropylethylamine (16 μl, 0.09 mmol) and ethanol as a solvent according to the method described in Example 17. The solvent was concentrated and the solid was suspended in ethanol and filtered. The white solid obtained was washed with ether and dried in the oven to give 281 mg (82% yield) of the title compound as a white solid.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | ethyl 4-chloro-6-((4-methoxybenzyl)amino)pyrimidine-5-carboxylate | 0.02 mmol, 6 mg | ClC1=NC=NC(=C1C(=O)OCC)NCC1=CC=C(C=C1)OC | C15H16ClN3O3
reactant | N,N-diisopropylethylamine | 0.09 mmol, 16 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | (S)-Ethyl 4-((4-methoxybenzyl)amino)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxylate | 281 mg, 82% yield | COC1=CC=C(CNC2=NC=NC(=C2C(=O)OCC)N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)C=C1 | C30H31N7O4
